US06031109
A mixture of phthalimide (20.0 g) and triphenylphosphine (35.65 g) was added dropwise to a mixture of 4-(2-hydroxyethyl)benzonitrile (20.0 g) and diethylazodicarboxylate (21.4 ml) in THF (650 ml) with stirring over one hour. The mixture was stirred at ambient temperature for 4 days. The solvent was removed under reduced pressure. Methanol (500 ml) and hydrazine hydrate (13 ml) were added to the residue and the mixture was boiled under reflux with stirring for 5 hours. The solvent was removed under reduced pressure and aqueous acetic acid (420 ml of glacial acetic acid in 1030 ml of water) was added to the residue. This mixture was stirred for 1 hour and then filtered. The filtrate was added to ice and basified with solid potassium hydroxide. The mixture was extracted with dichloromethane to give an oil which was purified by flash column chromatography to give 4-(2-aminoethyl)benzonitrile, as an oil. A sample was dissolved in ethereal hydrogen chloride to give the hydrochloride salt, m.p. 211-213° C.

reactant | phthalimide | 20.0 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 35.65 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(2-hydroxyethyl)benzonitrile | 20.0 g | OCCC1=CC=C(C#N)C=C1 | C9H9NO
reactant | diethylazodicarboxylate | 21.4 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 650 ml | C1CCOC1 | C4H8O
product | 4-(2-aminoethyl)benzonitrile | NCCC1=CC=C(C#N)C=C1 | C9H10N2
